US06670512B2
To a solution of commercial triphenylmethylhexafluorophosphate (0.69 g, 1.8 mmol) in dichloromethane at room temperature was added a rotational isomer of 1,1,2,2-tetrakis(2′,6′-dimethoxyphenyl)ethane (0.90 g, 1.5 mmol). After stirring for 18 hours, water (10 mL) was added and the resulting mixture was extracted with dichloromethane and dried over anhydrous magnesium sulfate. Filtration and removal of the solvent gave tetrakis(2,6-dimethoxyphenyl)ethylene after washing with diethyl ether. {Note: Only one of the rotational isomers gives (5) upon treatment with trityl cation.}

reactant | 1,1,2,2-tetrakis(2′,6′-dimethoxyphenyl)ethane | 1.5 mmol, 0.90 g | COC1=C(C(=CC=C1)OC)C(C(C1=C(C=CC=C1OC)OC)C1=C(C=CC=C1OC)OC)C1=C(C=CC=C1OC)OC | C34H38O8
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | tetrakis(2,6-dimethoxyphenyl)ethylene | COC1=C(C(=CC=C1)OC)C(=C(C1=C(C=CC=C1OC)OC)C1=C(C=CC=C1OC)OC)C1=C(C=CC=C1OC)OC | C34H36O8
